US05256650
1.94 g of D-amphetamine sulfate was made basic with 10% KOH. The aqueous solution was extracted with ether. The organic layer was dried over MgSO4, filtered, and concentrated to yield a clear oil. This was diluted with 3 ml of ethanol and added to a stirred solution of 466 g of 1-phenyl-4,6-dichloropyrazolo[3,4-d]pyrimidine in 7 ml ethanol. After 48 hours the solvent was removed under vacuum and the crude material was purified by radial chromatography (20-40% ethyl alcohol/hexane, 2mm plate) to yield 640 mg of (S)-N-(1-methyl-2-phenylethyl)-1-phenyl-6-chloro-1H-pyrazolo[3,4-d]pyrimidin-4-amine (100%).

reactant | D-amphetamine sulfate | 1.94 g | C[C@@H](CC1=CC=CC=C1)N.C[C@@H](CC1=CC=CC=C1)N.OS(=O)(=O)O
reactant | KOH | [OH-].[K+]
reactant | 1-phenyl-4,6-dichloropyrazolo[3,4-d]pyrimidine | 466 g | C1(=CC=CC=C1)N1N=CC=2C1=NC(=NC2Cl)Cl | C11H6Cl2N4
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | (S)-N-(1-methyl-2-phenylethyl)-1-phenyl-6-chloro-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 640 mg, 100% | C[C@@H](CC1=CC=CC=C1)NC1=C2C(=NC(=N1)Cl)N(N=C2)C2=CC=CC=C2 | C20H18ClN5
